US09315521B2
A mixture of 2-chloro-5-methylbenzoic acid (4.0 g, 23.4 mmol) in methanol (50 mL) and a few drops of concentrated sulfuric acid were stirred at reflux for 5 hours. After cooling to room temperature, methanol was evaporated. The residue was dissolved in ethyl acetate (50 mL). The solution was extracted with saturated NaHCO3 (3×50 mL). The organic layer was dried over MgSO4, filtered, evaporated, and dried in vacuo, affording methyl 2-chloro-5-methylbenzoate (3.07 g, 71% yield). The product was used without further purification.

reactant | 2-chloro-5-methylbenzoic acid | 23.4 mmol, 4.0 g | ClC1=C(C(=O)O)C=C(C=C1)C | C8H7ClO2
reactant | methanol | 50 mL | CO | CH4O
catalyst | sulfuric acid | a few drops | S(O)(O)(=O)=O | H2O4S
product | methyl 2-chloro-5-methylbenzoate | 3.07 g, 71% yield | ClC1=C(C(=O)OC)C=C(C=C1)C | C9H9ClO2
